US05756545
Step (a): 2-(4-Bromo-benzenesulfonylamino)-3-methyl-butyric Acid Tert-butyl Ester
To a solution of 4-bromobenzenesulfonyl chloride (20 g, 0.070 mol) and (L)-valine-tert-butyl ester, hydrochloride (16.4 g, 0.078 mol) in aqueous tetrahydrofuran (400 mL, 1:1) was added dropwise triethylamine (15.6 g, 0.15 mol). The reaction mixture was stirred at room temperature for 16 hours, then diluted with aqueous HCl (1M, 300 mL) and ethyl acetate (300 mL). The layers were separated and the organic portion was washed with brine, dried (MgSO4), filtered, and the filtrate was concentrated in vacuo leaving a white solid. The crude product was recrystallized from hexane/ethyl acetate to give the title compound as white crystalline needles. Yield: 19.7 g (67%); mp 108°-110°;

reactant | 4-bromobenzenesulfonyl chloride | 0.070 mol, 20 g | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | (L)-valine-tert-butyl ester, hydrochloride | 0.078 mol, 16.4 g | Cl.C(C)(C)(C)OC([C@@H](N)C(C)C)=O
reactant | triethylamine | 0.15 mol, 15.6 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 400 mL | O1CCCC1 | C4H8O
solvent | HCl | 1M, 300 mL | Cl | ClH
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | 2-(4-Bromo-benzenesulfonylamino)-3-methyl-butyric Acid Tert-butyl Ester | C(C)(C)(C)OC(C(C(C)C)NS(=O)(=O)C1=CC=C(C=C1)Br)=O | C15H22BrNO4S
